US07276603B2
To a stirred suspension of LiAlH4 (200 mg, excess) in THF at 0° C., ethyl(7-methoxy-1-benzofuran-3-yl)propanoate (1.24 g, 5 mmol) in THF (20 mL) was added slowly. After the addition, reaction mixture was stirred at room temperature for 1 hr and quenched with saturated NH4Cl solution. The product was extracted with chloroform and washed well with water. It was dried over anhydrous MgSO4, filtered and concentrated. The product, 2-(7-methoxy-1-benzofuran-3-yl)-1-propanol, was obtained as a white oil pure enough to be taken to the next step without purification. Yield: 900 mg (87%); (M+H): 207.

reactant | LiAlH4 | 200 mg | [H-].[H-].[H-].[H-].[Li+].[Al+3]
reactant | ethyl(7-methoxy-1-benzofuran-3-yl)propanoate | 5 mmol, 1.24 g | C(C)C(C(=O)[O-])(C)C1=COC2=C1C=CC=C2OC
solvent | THF | C1CCOC1 | C4H8O
solvent | THF | 20 mL | C1CCOC1 | C4H8O
product | 2-(7-methoxy-1-benzofuran-3-yl)-1-propanol | COC1=CC=CC=2C(=COC21)C(CO)C | C12H14O3
